US06620831B2
59-1) Synthesis of 2-(2-Ethoxyethoxy)ethyl 4-Methylbenzenesulfonate
432 mg (3.22 mmol) of 2-(2-ethoxyethoxy)ethanol was dissolved in 40 ml of dichloromethane, and 0.6 ml (4.19 mmol) of triethylamine and 614 mg (3.22 mmol) of p-toluenesulfonyl chloride were added thereto. The mixture was stirred at room temperature for 15 hours. After the solvent was removed under reduced pressure, 40 ml of water was added thereto. The mixture was extracted with 30 ml of ethyl acetate. The solvent was removed under reduced pressure to give 760 mg (2.64 mmol) of the title compound in a yield of 82%.

reactant | 2-(2-ethoxyethoxy)ethanol | 3.22 mmol, 432 mg | C(C)OCCOCCO | C6H14O3
reactant | triethylamine | 4.19 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 3.22 mmol, 614 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(2-Ethoxyethoxy)ethyl 4-Methylbenzenesulfonate | 2.64 mmol, 760 mg, yield of 82% | CC1=CC=C(C=C1)S(=O)(=O)OCCOCCOCC | C13H20O5S
